US05182387
Step a: 5-(3-[(2-chloro-1-oxo-ethyl)methylamino]propyl)-10,11-dihydro-5H-dibenzo[b,f]azepine
Dissolve 5-(3-methylaminopropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine (7.0 g, 0.026 mol) and triethylamine (4 mL) in dichloromethane (100 mL) and cool with an ice-bath. Add, by dropwise addition, a solution of chloroacetyl chloride (3.23 g, 0.0286 mol) in dichloromethane (25 mL). Stir at room temperature for 12 hours, shake with dilute hydrochloric acid and dry (MgSO4). Evaporate the solvent in vacuo to give the title compound as an oil.

reactant | 5-(3-methylaminopropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine | 0.026 mol, 7.0 g | CNCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H22N2
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.0286 mol, 3.23 g | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-(3-[(2-chloro-1-oxo-ethyl)methylamino]propyl)-10,11-dihydro-5H-dibenzo[b,f]azepine | ClCC(=O)N(CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)C | C20H23ClN2O
